US08389513B2
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-2) and 3,5-dichloro-pyridine-2-carboxylic acid following procedure I yielded the 3,5-dichloro-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide which, after treatment with hydrochloric acid in dioxane (4N), evaporation and trituration with diethylether, gave the title compound as a white solid. MS (ISP): m/z=461.2 [M+H]+, 463.1 [M+2+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC(C1(F)F)(C)C)N)C)F | C13H16F3N3O
reactant | 3,5-dichloro-pyridine-2-carboxylic acid | ClC=1C(=NC=C(C1)Cl)C(=O)O | C6H3Cl2NO2
product | 3,5-dichloro-pyridine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OC(C([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1Cl)Cl)(F)F)(C)C | C19H17Cl2F3N4O2
